US08304557B2
N-{3-[(2-{[(ethylamino)carbonyl]amino}[1,2,4]triazolo[1,5-a]pyridin-6-yl)oxy]-5-methylphenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide
A mixture of N-{3-[(2-amino[1,2,4]triazolo[1,5-a]pyridin-6-yl)oxy]-5-methylphenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide (304 mg, 0.805 mmol), ethyl isocyanate (314 μL, 3.98 mmol) and pyridine (10 mL) was stirred at 50° C. for 18 hr. The reaction solution was concentrated under reduced pressure and ethyl acetate was added to the residue. The mixture was washed with saturated aqueous sodium hydrogen carbonate solution and saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and the residue was purified by column chromatography (silica gel, hexane/ethyl acetate=100/0→O/100) and recrystallized from ethyl acetate-hexane to give the title compound (151 mg, 42%) as a white solid.

reactant | N-{3-[(2-amino[1,2,4]triazolo[1,5-a]pyridin-6-yl)oxy]-5-methylphenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide | 0.805 mmol, 304 mg | NC1=NN2C(C=CC(=C2)OC=2C=C(C=C(C2)C)NC(=O)C2=CC(=NN2C)C)=N1 | C19H19N7O2
reactant | ethyl isocyanate | 3.98 mmol, 314 μL | C(C)N=C=O | C3H5NO
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | N-{3-[(2-{[(ethylamino)carbonyl]amino}[1,2,4]triazolo[1,5-a]pyridin-6-yl)oxy]-5-methylphenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide | 151 mg, 42% | C(C)NC(=O)NC1=NN2C(C=CC(=C2)OC=2C=C(C=C(C2)C)NC(=O)C2=CC(=NN2C)C)=N1 | C22H24N8O3
